US06414098B1
Synthesis of 2,6-Dibenzoylpyridine
20.0 g (98 mmol) pyridine-2,6-dicarboxylic acid chloride in 250 ml of dry benzene were mixed with 32.4 g (243 mmol) of anhydrous aluminum trichloride under an argon atmosphere in a 500 ml round-bottom flask fitted with a reflux condenser. The batch was stirred for 4 hours under reflux, was then cooled and stirred overnight at room temperature (“RT”), and was then stirred for a further 6 hours under reflux. After cooling, the batch was carefully poured into 500 ml of iced water. The organic phase was separated and the aqueous phase was washed twice with 100 ml diethyl ether each time. The combined organic phases were washed twice with 100 ml water each time and were then dried over sodium sulphate. The solvents were removed in a rotary evaporator and the product was recrystallized from diethyl ether. Yield: 16.80 g.

reactant | pyridine-2,6-dicarboxylic acid chloride | 98 mmol, 20.0 g | N1=C(C=CC=C1C(=O)Cl)C(=O)Cl | C7H3Cl2NO2
reactant | aluminum trichloride | 243 mmol, 32.4 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | water | 500 ml | O | H2O
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2,6-Dibenzoylpyridine | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1)C(C1=CC=CC=C1)=O | C19H13NO2
